US06610723B2
A solution of [1-(3,4-dichloro-phenyl)-1H-imidazol-4-yl]-methanol (10.8 g, 44.3 mmol) in a mixture of THF (270 ml) and H2O (30 ml) was treated with manganese(IV) oxide (5 g, 57.5 mmol) and the mixture was refluxed for 4 h. A second portion of manganese(IV) oxide (1.5 g) was added and reflux continued for 1.5 h. The mixture was filtered over Celite, and the residue was washed with MeOH. Toluene was added to the filtrate, and the H2O was removed azeotropically. The brown residue was taken up in CH2Cl2 and upon standing white crystals formed. Filtration afforded 1-(3,4-dichloro-phenyl)-1H-imidazole-4-carbaldehyde (2.5 g, 25%). MS: m/e=240.0 (M+).

reactant | [1-(3,4-dichloro-phenyl)-1H-imidazol-4-yl]-methanol | 44.3 mmol, 10.8 g | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CO | C10H8Cl2N2O
solvent | THF | 270 ml | C1CCOC1 | C4H8O
solvent | H2O | 30 ml | O | H2O
catalyst | manganese(IV) oxide | 57.5 mmol, 5 g | [O-2].[Mn+4].[O-2]
catalyst | manganese(IV) oxide | 1.5 g | [O-2].[Mn+4].[O-2]
product | 1-(3,4-dichloro-phenyl)-1H-imidazole-4-carbaldehyde | 2.5 g, 25% | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)C=O | C10H6Cl2N2O
